US07557105B2
Step 1.5: N-(2-Hydroxymethyl-5-nitro-phenyl)-4-(3-pyridinyl)-2-pyrimidinamine
Polymethylhydrosiloxane (860 mg), tetrakis(triphenylphoshine)palladium (70 mg) and zinc chloride (2.66 mL of 0.5 M in THF, 1.33 mmol) is added to a stirred solution of N-{2-[(2-propenyloxy)-methyl]-5-nitro-phenyl}-4-(3-pyridinyl)-2-pyrmidinamine (2.60 g, 7.2 mmol) in dry THF (60 mL). The mixture is then stirred under an argon atmosphere at 30° C. for 30 h. The solvent is then evaporated off under reduced pressure to give a residue which is treated with saturated aqueous sodium chloride solution (50 mL) and extracted with ethyl acetate (3×50 mL). The combined extracts are dried (Na2SO4), filtered and the solvent is evaporated off under reduced pressure to yield the crude product which is recrystallised from THF to give the title compound as a pale-yellow crystalline solid, m.p. 247-250° C.

reactant | N-{2-[(2-propenyloxy)-methyl]-5-nitro-phenyl}-4-(3-pyridinyl)-2-pyrmidinamine | 7.2 mmol, 2.60 g | C(C=C)OCC1=C(C=C(C=C1)[N+](=O)[O-])NC1=NC=CC(=N1)C=1C=NC=CC1 | C19H17N5O3
reactant | sodium chloride | 50 mL | [Cl-].[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | 1.33 mmol, 0.5 M, 2.66 mL | [Cl-].[Zn+2].[Cl-]
product | N-(2-Hydroxymethyl-5-nitro-phenyl)-4-(3-pyridinyl)-2-pyrimidinamine | OCC1=C(C=C(C=C1)[N+](=O)[O-])NC1=NC=CC(=N1)C=1C=NC=CC1 | C16H13N5O3
